US03996360
If 3-methyl-3-(3,4-dimethoxybenzyl)-piperazine is reacted with p-chlorophenyl-phenylmethyl chloride in methyl ethyl ketone according to Example 2, 1-(p-chlorophenyl-phenylmethyl)-3-methyl-3-(3,4-dimethoxybenzyl)-piperazine is obtained in 80 percent yield after a twelve-hour reaction period. The hydrochloride has a melting point of 235° - 237° C. (isopropanol).

reactant | 3-methyl-3-(3,4-dimethoxybenzyl)-piperazine | CC1(CNCCN1)CC1=CC(=C(C=C1)OC)OC | C14H22N2O2
reactant | p-chlorophenyl-phenylmethyl chloride | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)Cl | C13H10Cl2
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 1-(p-chlorophenyl-phenylmethyl)-3-methyl-3-(3,4-dimethoxybenzyl)-piperazine | 80 percent yield | ClC1=CC=C(C=C1)C(N1CC(NCC1)(CC1=CC(=C(C=C1)OC)OC)C)C1=CC=CC=C1 | C27H31ClN2O2
